US08017602B2
Step i) N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanamide
To 3-(3-bromophenethoxy)-N-cyclohexyl-N-(2,2-dimethoxyethyl)propanamide (1.4 g), prepared as in Preparation 3 Step iii), within a 35 mL microwave tube with stirrer were added 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.92 g), potassium carbonate (0.88 g) and Pd(Ph3P)4 (0.18 g) followed by methanol (8 mL). The vial was sealed and heated within a CEM Discover microwave at 100° C. for 15 min. The mixture was diluted with DCM and washed once with water, once with brine, dried over sodium sulphate and the solvent evaporated to afford crude material as an orange oil. This was purified on silica using ethyl acetate as the eluent to afford the product (1.52 g). MS [M+H-MeOH]+=412 (MultiMode+) 1H NMR (400 MHz, CD3OD) δ 7.92 (s, 1H), 7.78 and 7.77 (2×s, 1H), 7.40-7.32 (m, 2H), 7.23 and 7.22 (2×t, J=7.6 Hz, 1H), 7.07-7.03 (m, 1H), 4.52 and 4.36 (2×t, J=5.3 Hz, 1H), 4.05-3.95 and 3.69-3.60 (2×m, 1H), 3.901 and 3.898 (2×s, 3H), 3.75-3.64 (m, 4H), 3.34 (s, 3H), 3.32 (s, 3H), 3.34 and 3.25 (2×d, J=5.1 Hz, 2H), 2.84 and 2.83 (2×t, J=6.6 Hz, 2H), 2.65 and 2.63 (2×t, J=6.1 Hz, 2H), 1.79-1.04 (m, 10H); a ˜1:1 mixture of rotamers is observed.

reactant | 3-(3-bromophenethoxy)-N-cyclohexyl-N-(2,2-dimethoxyethyl)propanamide | 1.4 g | BrC=1C=C(CCOCCC(=O)N(CC(OC)OC)C2CCCCC2)C=CC1 | C21H32BrNO4
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.92 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium carbonate | 0.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 8 mL | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(Ph3P)4 | 0.18 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanamide | 1.52 g | C1(CCCCC1)N(C(CCOCCC1=CC(=CC=C1)C=1C=NN(C1)C)=O)CC(OC)OC | C25H37N3O4
